US09388197B2
A.2.2.2. Synthesis of 3,5-dichloro-2-cyanobenzyl acetate
To a soln. of 2-(bromomethyl)-4,6-dichlorobenzonitrile (15.1 mmol) in 30 mL AcOH was added NaOAc (75.7 mmol). The suspension was heated to 100° C. for 2 h. The solvent was evaporated off and the residue partitioned between DCM and water. The org. phase was washed with water, dried over MgSO4 and conc. in vacuo. Purification with CC (5-70% EtOAc/Hept) gives the desired compound as white solid.

reactant | 2-(bromomethyl)-4,6-dichlorobenzonitrile | 15.1 mmol | BrCC1=C(C#N)C(=CC(=C1)Cl)Cl | C8H4BrCl2N
reactant | NaOAc | 75.7 mmol | CC(=O)[O-].[Na+]
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | 3,5-dichloro-2-cyanobenzyl acetate | C(C)(=O)OCC1=C(C(=CC(=C1)Cl)Cl)C#N | C10H7Cl2NO2
